* template NAND gate
VInputB InputA 0 PULSE(0 5 0 0 0 2 4)
Vdd Vdd 0 5
M1 output InputB Vdd Vdd PMOS
M2 output InputA Vdd Vdd PMOS
M4 N001 InputB 0 0 NMOS
M3 output InputA N001 0 NMOS
VInputA InputB 0 PULSE(0 5 0 0 0 1 2)
.model NMOS NMOS
.model PMOS PMOS
.tran 0 10 0 1ms
.backanno
.end
